US07951954B2
c) [3-(2-Hydroxy-ethyl)-benzyl]-[2-(2-methoxymethoxy-phenyl)-ethyl]-carbamic acid tert-butyl ester
A solution of [3-(2-hydroxy-ethyl)-benzyl]-[2-(2-hydroxy-phenyl)-ethyl]-carbamic acid tert-butyl ester (123 mg) in anhydrous N,N-dimethylformamide (2 mL) was treated with sodium hydride (14 mg of 60% grade reagent) and the mixture stirred under nitrogen for 10 minutes. A solution of chloromethyl methyl ether (29 mg) in anhydrous N,N-dimethylformamide (0.5 mL) was added dropwise followed by stirring at room temperature for 30 minutes. The reaction mixture was partitioned between ethyl acetate and saturated aqueous brine, the organic layer was separated, dried and the solvent evaporated under reduced pressure to yield the sub-titled compound (110 mg).

reactant | [3-(2-hydroxy-ethyl)-benzyl]-[2-(2-hydroxy-phenyl)-ethyl]-carbamic acid tert-butyl ester | 123 mg | C(C)(C)(C)OC(N(CCC1=C(C=CC=C1)O)CC1=CC(=CC=C1)CCO)=O | C22H29NO4
reactant | sodium hydride | 14 mg | [H-].[Na+]
reactant | chloromethyl methyl ether | 29 mg | COCCl | C2H5ClO
solvent | N,N-dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 0.5 mL | CN(C=O)C | C3H7NO
product | [3-(2-Hydroxy-ethyl)-benzyl]-[2-(2-methoxymethoxy-phenyl)-ethyl]-carbamic acid tert-butyl ester | 110 mg | C(C)(C)(C)OC(N(CCC1=C(C=CC=C1)OCOC)CC1=CC(=CC=C1)CCO)=O | C24H33NO5
